US06207686B1
To a solution of 1-tert-butoxycarbonyl-2-n-butyl-4-(hydroxymethyl)imidazole (4.43 g) in dichloromethane (80 ml) was added triphenylphosphine (5.48 g) followed by carbon tetrabromide (6.93 g) at ambient temperature and the mixture was stirred for 30 minutes. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=4:1) to give 1-tert-butoxycarbonyl-2-n-butyl-4-(bromomethyl)imidazole (5.09 g) as a colorless oil.

reactant | 1-tert-butoxycarbonyl-2-n-butyl-4-(hydroxymethyl)imidazole | 4.43 g | C(C)(C)(C)OC(=O)N1C(=NC(=C1)CO)CCCC | C13H22N2O3
reactant | triphenylphosphine | 5.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 6.93 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-tert-butoxycarbonyl-2-n-butyl-4-(bromomethyl)imidazole | 5.09 g | C(C)(C)(C)OC(=O)N1C(=NC(=C1)CBr)CCCC | C13H21BrN2O2
